US08003649B2
1-Methylpiperazine (140 μl, 1.27 mmol) was added to 2-chloro-N-[4-[1-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]phenyl]acetamide (139 mg, 0.317 mmol) and sodium iodide (10 mg, 0.063 mmol) in a mixture of THF (2 mL) and DMA (0.5 mL). The resulting solution was heated at 60° C. for 2 hours, then cooled and evaporated to give the crude product which was purified by preparative HPLC (Waters XBridge Prep C18 OBD column, 5μ silica, 19 mm diameter, 100 mm length), using decreasingly polar mixtures of water (containing 1% ammonia) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to give 2-(4-methylpiperazin-1-yl)-N-[4-[1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]phenyl]acetamide (111 mg, 70%) as a solid.

reactant | 1-Methylpiperazine | 1.27 mmol, 140 μl | CN1CCNCC1 | C5H12N2
reactant | 2-chloro-N-[4-[1-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]phenyl]acetamide | 0.317 mmol, 139 mg | ClCC(=O)NC1=CC=C(C=C1)C1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C19H18ClF3N6O
reactant | sodium iodide | 0.063 mmol, 10 mg | [I-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | DMA | 0.5 mL | CC(=O)N(C)C | C4H9NO
product | 2-(4-methylpiperazin-1-yl)-N-[4-[1-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperidin-4-yl]phenyl]acetamide | 111 mg, 70% | CN1CCN(CC1)CC(=O)NC1=CC=C(C=C1)C1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C24H29F3N8O
